US07514566B2
To a 250 mL round-bottomed flask were added 4-(trifluoromethyl)thiazol-2-amine (6 g, 36 mmol), ACN (90 mL, 1723 mmol), and N-bromosuccinimide (4 mL, 43 mmol). The solution was stirred at 60° C. for 3 hours. The reaction was cooled, and the solvent was removed in vacuo. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of (5%→50% EtOAc in hexane) to provide 5-bromo-4-(trifluoromethyl)thiazol-2-amine (8.1 g, 90% yield), m/z (%): 248.2 (100%, M++H).

reactant | 4-(trifluoromethyl)thiazol-2-amine | 36 mmol, 6 g | FC(C=1N=C(SC1)N)(F)F | C4H3F3N2S
reactant | ACN | 1723 mmol, 90 mL | C(C)#N | C2H3N
reactant | N-bromosuccinimide | 43 mmol, 4 mL | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-bromo-4-(trifluoromethyl)thiazol-2-amine | 8.1 g, 90% yield | BrC1=C(N=C(S1)N)C(F)(F)F | C4H2BrF3N2S
